* Z:\mnt\design.r\spice\examples\3475.asc
XU1 N001 N007 N002 N005 IN MP_01 N006 N003 N008 N004 N010 N013 N012 N014 0 IN N013 N011 N013 N009 LT3475
C1 N003 N006 .22µ
L1 N006 N004 10µ Rpar=2K
D1 N004 N003 1N5818
D2 0 N006 1N5818
D3 N008 0 NSPW500BS
C2 N004 0 2.2µ
C3 0 N012 .1µ
R1 0 N014 24.3K
C4 N002 N005 .22µ
L2 N005 N001 12µ Rpar=2K
D4 N001 N002 1N5818
D5 0 N005 1N5818
D6 N007 0 NSPW500BS
C5 N001 0 2.2µ
C6 0 N011 .1µ
V1 IN 0 10
V2 N009 0 PULSE(0 2 0 1u 1u 100u 200u)
V3 N010 0 PULSE(0 2 50u 1u 1u 100u 200u)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2.5m startup
.lib LT3475.sub
.backanno
.end
